US07781478B2
2-(3-Amino-4-hydroxyphenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (100 mg, 0.33 mmol), prepared as in step A, is combined with CDI (83 mg, 0.51 mmol), and THF (1.1 mL). This is heated at 65° C. for 1 hour. The reaction mixture is partitioned between EtOAc and aqueous HCl. The organic layer is dried and concentrated. Purification by silica gel chromatography (9/1, CH2Cl2/EtOAc) yields 1-ethyl-6-methoxy-2-(2-oxo-2,3-dihydro-benzooxazol-5-yl)-1H-indole-3-carbonitrile (89 mg, 81%) as a white solid.

reactant | 2-(3-Amino-4-hydroxyphenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.33 mmol, 100 mg | NC=1C=C(C=CC1O)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O2
reactant | CDI | 0.51 mmol, 83 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
product | 1-ethyl-6-methoxy-2-(2-oxo-2,3-dihydro-benzooxazol-5-yl)-1H-indole-3-carbonitrile | 89 mg, 81% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C=1C=CC2=C(NC(O2)=O)C1 | C19H15N3O3
